US08034812B2
Production of N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide
To a solution of 3-amino-4-fluorophenol (0.42 g, 3.29 mmol) in N,N-dimethylformamide (9.0 mL) were added N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylcyclopropanecarboxamide (0.75 g, 2.19 mmol) and potassium carbonate (0.61 g, 4.38 mmol), and the mixture was stirred at 140° C. for 16 hr. Saturated brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran, washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate alone), and the obtained residue was washed with hexane/ethyl acetate and filtrated to give the title compound (0.63 g, 88%) as a brown powder.

reactant | 3-amino-4-fluorophenol | 3.29 mmol, 0.42 g | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)-2-methylcyclopropanecarboxamide | 2.19 mmol, 0.75 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2C(C2)C | C11H11IN4O
reactant | potassium carbonate | 4.38 mmol, 0.61 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 9.0 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]-2-methylcyclopropanecarboxamide | 0.63 g, 88% | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3C(C3)C)C=CC1F | C17H16FN5O2
